US07482341B2
N-[6-(2-Cyclopropyl-ethoxymethyl)-pyridin-2-yl]-4-fluoro-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine (0.08 g) and 4-fluoro-3-(trifluormethyl)-benzenesulfonyl chloride (0.12 g) as a light yellow gum (0.08 g). MS (ESI−): 417.0 ([M−H]−).

reactant | 6-(2-cyclopropyl-ethoxymethyl)-pyridin-2-ylamine | 0.08 g | C1(CC1)CCOCC1=CC=CC(=N1)N | C11H16N2O
reactant | 4-fluoro-3-(trifluormethyl)-benzenesulfonyl chloride | 0.12 g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3ClF4O2S
product | N-[6-(2-Cyclopropyl-ethoxymethyl)-pyridin-2-yl]-4-fluoro-3-trifluoromethyl-benzenesulfonamide | C1(CC1)CCOCC1=CC=CC(=N1)NS(=O)(=O)C1=CC(=C(C=C1)F)C(F)(F)F | C18H18F4N2O3S
